US07737166B2
2-Cyclopropyl-7-[(1S*,3R*)-3-hydroxycyclopentyl]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-302)
2-Cyclopropyl-7-[(1R*,3S*,4S*)-3-hydroxy-4-iodocyclopentyl]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-301) (240 mg, 0.50 mol) was dissolved in toluene (4.8 ml), then at room temperature, 2,2′-azobisisobutyronitrile (8 mg, 0.05 mmol) and tri-n-butyltin hydride (180 μl, 0.64 mmol) were added. The solution was heated under reflux under nitrogen atmosphere for 3 hours. Monitoring the reaction by TLC showed the remaining starting material, and the solution was cooled to room temperature and tri-n-butyltin hydride (89 μl, 0.32 mmol) was again added. After further heated under reflux for 1 hour, this was cooled to room temperature. The solvent was evaporated away under reduced pressure, and the resulting residue was combined with the entitled compound (I-302) separately synthesized according to a different method, and purified by middle-pressure liquid chromatography (eluent, n-hexane:ethyl acetate=1:1, v/v) to obtain the entitled compound (113 mg, 60%) as a colorless gel.

reactant | 2-Cyclopropyl-7-[(1R*,3S*,4S*)-3-hydroxy-4-iodocyclopentyl]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 0.50 mol, 240 mg | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2[C@@H]2C[C@@H]([C@H](C2)I)O)C2=CC=CC=C2)C)C#N | C23H21IN2O2
reactant | 2,2′-azobisisobutyronitrile | 0.05 mmol, 8 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | tri-n-butyltin hydride | 0.64 mmol, 180 μl | C(CCC)[SnH](CCCC)CCCC
reactant | tri-n-butyltin hydride | 0.32 mmol, 89 μl | C(CCC)[SnH](CCCC)CCCC
solvent | toluene | 4.8 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Cyclopropyl-7-[(1S*,3R*)-3-hydroxycyclopentyl]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 113 mg, 60% | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2[C@@H]2C[C@@H](CC2)O)C2=CC=CC=C2)C)C#N | C23H22N2O2
